US04971982
402 mg of methyl 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carboxylate were dissolved in 15 ml of dichloromethane at room temperature and 330 mg of m-chloroperbenzoic acid were added. After stirring at room temperature overnight the mixture was washed with sodium bisulphite solution and sodium bicarbonate solution, dried over sodium sulphate and evaporated. The residue was chromatOgraphed on silica gel using 10% (v/v) methanol/ethyl acetate for the elution. The product was recrystallized from t-butyl methyl ether to give 65 mg of 2-[6-(methoxycarbonyl)-2,2-dimethyl-2H-1-benzopyran-4-yl]pyridine N-oxide of melting point 155-157° C.

reactant | methyl 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carboxylate | 402 mg | CC1(OC2=C(C(=C1)C1=NC=CC=C1)C=C(C=C2)C(=O)OC)C | C18H17NO3
reactant | m-chloroperbenzoic acid | 330 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-[6-(methoxycarbonyl)-2,2-dimethyl-2H-1-benzopyran-4-yl]pyridine N-oxide | 65 mg | COC(=O)C=1C=CC2=C(C(=CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1 | C18H17NO4
